US06586422B2
In analogy to the procedure as described in example 4 the 3-methylsulfanyl-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile was reacted with (RS)-1-amino-2-propanol in dioxane at 120° C. overnight to give (RS)-3-(2-hydroxy-propylamino)-5-(1,2,4,5 -tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile as a white solid; MS: 325 (M+H)+.

reactant | 3-methylsulfanyl-5-(1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile | CSC=1N=NC(=C(N1)N1CCC2=C(CC1)C=CC=C2)C#N | C15H15N5S
reactant | (RS)-1-amino-2-propanol | NCC(C)O | C3H9NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (RS)-3-(2-hydroxy-propylamino)-5-(1,2,4,5 -tetrahydro-benzo[d]azepin-3-yl)-[1,2,4]triazine-6-carbonitrile | OC(CNC=1N=NC(=C(N1)N1CCC2=C(CC1)C=CC=C2)C#N)C | C17H20N6O
